US06376655B1
6.30 g (0.019 mol) of ethyl 4-[4-(4-cyanophenylazo)phenoxy]-butyrate was dissolved in a mixture of 150 mL of dimethylformamide and 40 mL of water in a 500 mL one-neck round flask fitted with a magnetic stirring bar and a reflux condenser by heating to 90° C. while stirring on an oil bath. 3.8 g (0.095 mol) of NaOH was added through the condenser. Stirring and heating were continued for 1 h after which the reaction mixture was left for cooling to room temperature. The reaction mixture was then poured onto 200 of ice and acidified with 8N HCl until pH 2. The precipitated crude product was recovered by filtration. The precipitate was washed with 100 mL of hot ethanol and left overnight. After filtration and vacuum drying at 50° C. for 22 h. 5.49 g (yield 93%) of 4-[4-(4-cyanophenylazo)phenoxy]-butanoic acid was obtained

reactant | ethyl 4-[4-(4-cyanophenylazo)phenoxy]-butyrate | 0.019 mol, 6.30 g | C(#N)C1=CC=C(C=C1)N=NC1=CC=C(OCCCC(=O)OCC)C=C1 | C19H19N3O3
reactant | NaOH | 0.095 mol, 3.8 g | [OH-].[Na+]
reactant | HCl | 8N | Cl | ClH
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | water | 40 mL | O | H2O
product | 4-[4-(4-cyanophenylazo)phenoxy]-butanoic acid | 5.49 g, yield 93% | C(#N)C1=CC=C(C=C1)N=NC1=CC=C(OCCCC(=O)O)C=C1 | C17H15N3O3
